US04159331
In the manner given in Example 1A, p-nitrobenzenesulfonyl chloride, 1-[3,5-di(trifluoromethyl)phenyl]piperazine and triethylamine are stirred at reflux to give 1-[(p-nitrophenyl)sulfonyl]-4-[3,5-di(trifluoromethyl)phenyl]piperazine.

reactant | p-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 1-[3,5-di(trifluoromethyl)phenyl]piperazine | FC(C=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1)(F)F | C12H12F6N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[(p-nitrophenyl)sulfonyl]-4-[3,5-di(trifluoromethyl)phenyl]piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C18H15F6N3O4S
